### PR TITLE
Afiqhatta tanh properties

### PR DESCRIPTION
**Pull request by casualPhysics**
Adding tanh properties for the reflectionless potential

### CODE REVIEW

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 1]
```diff
@@ -0,0 +1,59 @@
...
+
+/-- tanh(x) is less than 1 for all x -/
+lemma tanh_lt_one (x : ℝ) : Real.tanh x < 1 := by
+  rw [Real.tanh_eq_sinh_div_cosh]
+  rw [div_lt_one]
+  apply Real.sinh_lt_cosh
+  apply Real.cosh_pos
+
+/-- tanh(x) is greater than -1 for all x -/
+lemma minus_one_lt_tanh (x : ℝ) : Real.tanh x > -1 := by
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean]: Can you actually change this lemma to be `-1 <  Real.tanh x`

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+import Mathlib.Algebra.Order.Field.Basic
+import Mathlib.Order.Basic
+import Mathlib.Analysis.Calculus.Deriv.MeanValue
+import Mathlib.Data.Complex.Trigonometric
+import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
+import Mathlib.Order.Monotone.Odd
+import Mathlib.Analysis.Calculus.LogDeriv
+import Mathlib.Analysis.SpecialFunctions.ExpDeriv
+import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
+import Mathlib.Analysis.Calculus.Deriv.MeanValue
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean]: Please could you put `#min_imports` at the bottom of this file, and replace this list of imports with what the output is. (Then remove the `#min_imports`).

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+
+/-!
+We want to prove that the reflectionless potential is a Schwartz map.
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean:12]: Please can you put a title for this doc string e.g. 

```
# Properties of Tanh 
```

File: PhysLean/Mathematics/Trigonometry/Tanh.lean [hunk 4]
```diff
@@ -0,0 +1,59 @@
...
+/-- The absolute value of tanh is bounded by 1 -/
+lemma abs_tanh_lt_one (x: ℝ) : |Real.tanh x| < 1 := by
+  sorry
+
+/-- The derivative of tanh(x) is 1 - tanh(x)^2 -/
+lemma deriv_tanh (x: ℝ) : deriv Real.tanh = fun x => 1 - Real.tanh x ^ 2 := by
+  sorry
+
+/-- Tanh(x) is n times continuously differentiable for all n -/
+lemma contDiff_tanh {n : ℕ} : ContDiff ℝ n Real.tanh := by
```
Comment (jstoobysmith) [inline PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: For each lemma that has `sorry` it will need to be marked with `@[sorryful]` otherwise the linters will complain.

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 1 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: got it

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 2 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean]: useful! didnt know you could do that

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 3 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:12]: yep

File: PhysLean/Mathematics/Trigonometry/Tanh.lean (hunk 4 above)
Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: whats the import that i need? I get 

unknown attribute [sorryful] as an error

Comment (jstoobysmith) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: Ah, yeah, sorry my bad: 

```
import PhysLean.Meta.Linters.Sorry
```

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: bit stuck with this on #lint 

-- Found 1 error in 6 declarations (plus 0 automatically generated ones) in the current file with 16 linters

/- The `noSorry` linter reports:
The following results either contain the `sorryAx`
    or the `Lean.ofReduceBool` axiom and are not marked with the `@[sorryful]`
    or `@[pseudo]` attribute respectively. Or they are marked with
    the `@[sorryful]` or `@[pseudo]` attribute and do not contain the
    `sorryAx` or `Lean.ofReduceBool` axiom respectively. -/
#check tanh_lt_one /- tanh_lt_one contains either
      `sorryAx` or `Lean.ofReduceBool` and is not marked with @[sorryful]
      or @[pseudo] respectively, or is marked with @[sorryful] or @[pseudo]
      and does not contain `sorryAx` or `Lean.ofReduceBool` respectively. -/

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: i get this when i mark everything with @[sorryful]

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: ah ignore - i added sorryful on the one proved lemma

Comment (casualPhysics) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: #lint all passed now

Comment (jstoobysmith) [reply PhysLean/Mathematics/Trigonometry/Tanh.lean:51]: Nice :). Yeah sorryful is strict in both directions - you can't add it to something that doesn't contain sorry :).

**Review by jstoobysmith — APPROVED** [review]
Approved - feel free to merge when you are ready :).
